US04551460
A solution of 7.8 g of 3-quinolinehexanol in 35 ml of dry dichloromethane was treated dropwise with a solution of 6.07 g of thionyl chloride in 15 ml of dichloromethane. The reaction mixture was heated to reflux for 1 hour and evaporated to dryness. The residue was dissolved in dichloromethane, washed successively with water, saturated sodium bicarbonate solution and brine, dried over potassium carbonate and evaporated to give 8.3 g of crude 6-(3-quinolinyl)hexylchloride. A suspension of 8.3 g of 6-(3-quinolinyl)hexylchloride, 12.6 g of potassium phthalimide, and 0.50 g of potassium iodide in 60 ml of dimethylformamide was heated to a bath temperature of 130° C. for one hour. The cooled mixture was diluted with water and extracted with dichloromethane. The combined organic layers were washed with water, dried over potassium carbonate and evaporated. The crude solid was crystallized from ethyl acetate-hexane to give 9.9 g (82%) of 2-[6-(3-quinolinyl)hexyl]-1H-isoindole-1,3-(2H)-dione, mp 90°-91° C. An analytical sample was obtained from toluene, mp 95.5°-96.5° C.

reactant | 3-quinolinehexanol | 7.8 g | N1=CC(=CC2=CC=CC=C12)CCCCCCO | C15H19NO
reactant | thionyl chloride | 6.07 g | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 6-(3-quinolinyl)hexylchloride | 8.3 g | N1=CC(=CC2=CC=CC=C12)CCCCCCCl | C15H18ClN
